US06458780B1
b) 7-(2-Methoxycarbonylvinyl)-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole (A Mixture of Geometrical Isomers)
Tri-n-butylstannyl chloride (250 μl) and 2.1 ml of a 1.0 N lithiumbis(trimethylsilyl)amide/THF solution were added in that order to a solution of 7-(2-methoxycarbonylvinyl)imidazo[5,1-b]thiazole (a mixture of geometrical isomers) in dry THF in an argon atmosphere at −78° C. The mixture was stirred at the same temperature for 15 min. Water was added thereto. The mixture was extracted with ethyl acetate, followed by washing with saturated brine. The extract was dried over anhydrous magnesium sulfate and then filtered. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=4:1) to give 408 mg of the title compound.

reactant | Tri-n-butylstannyl chloride | 250 μl | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | lithiumbis(trimethylsilyl)amide THF | 1.0 N | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | 7-(2-methoxycarbonylvinyl)imidazo[5,1-b]thiazole | COC(=O)C=CC=1N=CN2C1SC=C2 | C9H8N2O2S
reactant | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 7-(2-Methoxycarbonylvinyl)-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 408 mg | COC(=O)C=CC=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C9H7N2O2S.3C4H9.Sn/c1-13-8(12)3-2-7-9-11(6-10-7)4-5-14-9;3*1-3-4-2;/h2-4,6H,1H3;3*1,3-4H2,2H3;
